US05093364
4-Fluoroanthranilic acid (1.0 g) and 4-methylbenzaldehyde (0.77 g) were added to ethanol (100 ml). The mixture was heated under reflux for 6 hours, cooled and evaporated under reduced pressure. The residue was recrystallised from toluene to give 4-fluoro-N-(4-methylbenzylidene)-anthranilic acid, mp 144°-5°. (Compound 13).

reactant | 4-Fluoroanthranilic acid | 1.0 g | FC=1C=C(C(C(=O)O)=CC1)N | C7H6FNO2
reactant | 4-methylbenzaldehyde | 0.77 g | CC1=CC=C(C=O)C=C1 | C8H8O
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 4-fluoro-N-(4-methylbenzylidene)-anthranilic acid | FC=1C=C(C(C(=O)O)=CC1)N=CC1=CC=C(C=C1)C | C15H12FNO2
